US07989472B2
Step A: 4,4′-Cyclobutane-1,1-diyldiphenol
Cyclobutanone (1.2 g, 17 mmol) and phenol (4.8 g, 51 mmol) were stirred in concentrated HCl (7 mL) at 40° C. for 72 h. The resulting slurry was filtered and the filter cake was dissolved in EtOAc and washed with saturated NaHCO3 (aq) and brine. The organic layer was concentrated to give a solid which was recrystallized from EtOAc/CH2Cl2 to provide the title compound. LCMS (ESI, neg. ion): m/z=239 [M−H]−; 479 [2M−H]−. 1H NMR (500 MHz, CD3OD): δ 7.10 (d, J=8.6 Hz, 4H), 6.70 (d, J=8.6 Hz, 4H), 2.65 (t, J=7.5 Hz, 4H), 1.93 (quint, J=7.5 Hz, 2H).

reactant | Cyclobutanone | 17 mmol, 1.2 g | C1(CCC1)=O | C4H6O
reactant | phenol | 51 mmol, 4.8 g | C1(=CC=CC=C1)O | C6H6O
solvent | HCl | 7 mL | Cl | ClH
product | 4,4′-Cyclobutane-1,1-diyldiphenol | C1(CCC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C16H16O2
